* C:\EE310_Group9_Water-Level-Sensor\Phase2_Transmitter\LED driver draft.asc
* Generated by LTspice 26.0.1 for Windows.
D1 N001 N006 D
Q1 N001 N005 N007 0 2N3904
Q2 N006 N007 N008 0 2N2222
R1 N008 0 47
R2 N005 0 4.7k
R3 N001 N005 10k
VCC N001 0 12
X§U1 Offset N002 V+ 0 N003 TLC081 ;§pnba In+)In-)V+)V-)OUT
X§U2 N004 Offset V+ 0 N005 TLC081 ;§pnba In+)In-)V+)V-)OUT
V2 V+ 0 5
V3 Offset 0 2.5
C1 N003 N002 150p
R4 N004 N003 10k
R5 N005 N004 25k
R6 N002 N005 416666
.model D D
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100ms
.include TLC081.mod
.backanno
.end
